US08957074B2
Following general amide formation method 3, 6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid was combined with 1-(3,8-diazabicyclo[3.2.1]octan-8-yl)ethanone which gave 2-(5-(8-acetyl-3,8-diazabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-7-cycloheptyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (63 mg) in 88% yield. 1H NMR (400 MHz, CDCl3) δ ppm 9.69 (s, 1H) 8.90 (s, 1H) 8.72 (d, J=8.59 Hz, 1H) 8.51 (d, J=2.02 Hz, 1H) 7.78 (dd, J=8.84, 2.27 Hz, 1H) 6.46 (s, 1H) 4.71 (br. s., 1H) 4.51 (tt, J=11.12, 4.04 Hz, 1H) 4.16 (br. s., 1H) 3.24-3.10 (m, 7H) 2.70-2.55 (m, 2H) 2.18-2.06 (m, 4H) 2.01 (ddd, J=13.64, 7.07, 4.04 Hz, 4H) 1.95-1.79 (m, 5H) 1.79-1.62 (m, 5H) 1.62-1.49 (m, 2H). HR-MS (m/z MH+) 559.31 RT 3.89 min.

reactant | 6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C22H26N6O3
reactant | 1-(3,8-diazabicyclo[3.2.1]octan-8-yl)ethanone | C12CNCC(CC1)N2C(C)=O | C8H14N2O
product | 2-(5-(8-acetyl-3,8-diazabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-7-cycloheptyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 63 mg, 88% yield | C(C)(=O)N1C2CN(CC1CC2)C(=O)C=2C=CC(=NC2)NC=2N=CC1=C(N2)N(C(=C1)C(=O)N(C)C)C1CCCCCC1 | C30H38N8O3
